Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo male with h/o COPD, endocarditis, anxiety, and
depression who presented to the ED on ___ with chest pain. He
reports acute onset chest pain 4 days ago at rest, constant, 
dull
aching, left substernal pain radiating to his left neck. He also
reports left arm paresthesias. He reports some dyspnea on
exertion over the past few years, but denies any acute
worsening over the past few weeks. He was told ___ years ago
that he would likely need a new valve in ___ years, but did
not follow-up. He denies fever, chills, n/v, abdominal pain,
chest pain, or any other symptoms. He had a positive ddimer, a
chest CTA was obtained on ___ which was negative for PE. Cardiac
enzymes were cycled and were negative. He is admitted for
continued cardiac workup.  

 
Past Medical History:
-COPD 
-hx Endocarditis
-Anxiety/depression
 
Social History:
___
Family History:
No Significant Inheritable Disorder 
 
Physical Exam:
Admission PE:
VS: ___ Temp: 97.6 PO BP: 148/96 L Sitting HR: 86 RR:
20 O2 sat: 95% O2 delivery: RA 
General: Awake, pleasant sitting on side of bed, NAD
Neuro: Alert and oriented x4. Pleasant and cooperative. Speech
clear, appropriate and comprehensible. Smile symmetric. Equal 
and
strong hand grasps and foot pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2, no murmur, rub or gallop 
Lungs: Clear but diminished at bases, non-labored. No use of
accessory muscles noted.
Abdomen: soft, non-tender, + BS x4
PV: WWP, + pedal pulses, No edema, +1 edema, Palpable Pedal
pulses ___. 

Weight:131.8kg 
EKG:  sinus at 71 bpm left anterior fascicular block
Tele: sinus rhythm HR 70-80s  

Discharge PE:
VS: Temp 97.6, BP 110-115/64-68, HR 63, RR 17, O2 sat 94%
Tele: ___, SR
EKG: rate 67, SR
Weight: 131.4 kg, 289.68 lbs
General: Sitting up in bed, NAD
Neuro: Alert and oriented x4. Pleasant and cooperative. Speech
clear, appropriate and comprehensible.
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2, no murmur, rub or gallop 
Lungs: Clear but diminished at bases, non-labored. No use of
accessory muscles noted.
Abdomen: soft, non-tender, + BS x4
PV: WWP, + pedal pulses, No edema. Palpable Pedal
pulses ___. 
 
Pertinent Results:
Admission Labs:
___ 03:56PM BLOOD WBC-7.0 RBC-4.52* Hgb-14.5 Hct-44.0 
MCV-97 MCH-32.1* MCHC-33.0 RDW-12.9 RDWSD-45.7 Plt ___
___ 03:56PM BLOOD Neuts-61.3 ___ Monos-7.2 Eos-7.2* 
Baso-0.9 Im ___ AbsNeut-4.28 AbsLymp-1.60 AbsMono-0.50 
AbsEos-0.50 AbsBaso-0.06
___ 08:39PM BLOOD ___ PTT-28.7 ___
___ 08:39PM BLOOD D-Dimer-668*
___ 03:56PM BLOOD Glucose-85 UreaN-25* Creat-1.2 Na-142 
K-4.9 Cl-103 HCO3-25 AnGap-14
___ 03:56PM BLOOD cTropnT-<0.01 proBNP-53
___ 09:16PM BLOOD cTropnT-<0.01

Discharge Labs:
___ 06:40AM BLOOD Glucose-99 UreaN-29* Creat-1.2 Na-141 
K-4.5 Cl-106 HCO3-26 AnGap-9*
___ 06:40AM BLOOD Mg-2.0

TTE ___:
CONCLUSION:
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is suboptimal image 
quality to assess regional left
ventricular function. Overall left ventricular systolic function 
is low normal. Quantitative biplane left ventricular ejection 
fraction is 54 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is
normal diastolic function. Normal right ventricular cavity size 
with low normal free wall motion. Tricuspid annular plane 
systolic excursion (TAPSE) is normal. The aortic sinus diameter 
is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis.
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is trivial tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. 1) Mild symmetric left 
ventricular hypertrophy with low normal LVEF wtih apparently 
normal regional wall motion however image quality suboptimal to 
fully exclude.

CARDIAC PERFUSION PHARM ___:

FINDINGS:  Left ventricular cavity size is mildly enlarged. 
Rest and stress perfusion images reveal a moderate fixed defect 
in the basal and 
mid inferior wall with associated hypokinesis. 
  
Gated images otherwise reveal normal wall motion. 
The calculated left ventricular ejection fraction is 48%. 
  
IMPRESSION:  Moderate fixed defect in the basal and mid inferior 
wall with 
associated hypokinesis. 

STRESS ___:
IMPRESSION: Non-anginal type symptoms in the absence of ischemic 
EKG 
changes. Baseline systolic and diastolic hypertension. Nuclear 
report 
sent separately. 
.

 
Brief Hospital Course:
Assessment/Plan: ___ yo male with history of endocarditis who was
lost to routine health maintenance now presented to Ed with 
chest
pain and DOE. He is being admitted for continued cardiac workup. 


 # Chest pain: Atypical CP, persistent and quite severe for
several days but describes this pain as present for the last few 
years and occurs at rest and with activity. Negative cardiac 
enzymes, non ischemic ECG. He underwent a pharmacologic stress 
moderate fixed defect in the basal and mid inferior wall with 
associated hypokinesis. Given that pt R/O and had stable 
symptoms here, decision made to treat medically, send home and 
return next week for cath to assure there is not more 
significant disease present that could be contributing to his 
dyspnea, though suspect his dyspnea is primarily pulmonary in 
origin. Started on ASA, imdur, atorvastatin and given SL NTG. 

 # History of Endocarditis: Per pt, he was treated for
endocarditis in ___ by Dr. ___ was told he would need a 
new
valve in ___ years. Prior echo from ___ in ___ showed mitral 
valve with mass that was possibly a chordae or possibly old 
vegetation. 
He has not had any further follow-up. On exam,
he has no murmur. He is not febrile or tachycardic. No signs of
infection or bacteremia. Echo results did not show valvular
dysfunction. No indication at this time for TEE. 

 # COPD: he has been lost to routine health maintenance for few
years. Still smokes 10 cigarettes per day. Using nicotine patch 
here and will give script for home. Cont Spiriva and symbicort. 
If cath is negative, pt needs PFT's and pulmonary workup. 

 # Anxiety/depression: well controlled. continued Wellbutrin, 
fluoxetine 

 #Insomnia: cont trazadone 

 #Tobacco use: Active tobacco smoker: Smoking cessation 
counseling done, this is the most important thing to do 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing/SOB  
2. Ibuprofen 400-800 mg PO BID:PRN Pain - Mild 
3. BuPROPion XL (Once Daily) 150 mg PO QAM 
4. FLUoxetine 20 mg PO QAM 
5. TraZODone 100-200 mg PO QHS:PRN insomnia 
6. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
7. Tiotropium Bromide 1 CAP ___ DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
4.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
5.  BuPROPion XL (Once Daily) 150 mg PO QAM  
6.  FLUoxetine 20 mg PO QAM  
7.  Ibuprofen 400-800 mg PO BID:PRN Pain - Mild  
8.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing/SOB   
9.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
10.  Tiotropium Bromide 1 CAP IH DAILY  
11.  TraZODone 100-200 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical chest pain
Anxiety
COPD
Current Tobacco use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

 It was a pleasure taking care of you at the ___ 
___. 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You presented to hospital with chest pain and worsening 
dyspnea on exertion. You did not have a heart attack. 

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
- You were seen by cardiologist on the floor. You had an 
echocardiogram of your heart to look at your valves and it was 
normal. You also had a exercise stress test which was abnormal 
that means you could have some partial blockages in your heart 
arteries. We are scheduling a cardiac catheterization for next 
week so we can see if your arteries have blockages and fix them 
if you do. 
In the meantime we will start you on some medicines to help your 
heart get better blood flow. 

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Take all of your medications as prescribed (listed below).  
 - the Cardiac catheterization scheduling office will be in 
touch to arrange the test. 
 - You have an appointment with a new primary care doctor next 
week. 
 - Take nitroglycerin if you have severe chest pain at home.  

Nitroglycerin is a medication that can be used as needed for 
chest pain. If you develop chest pain, place 1 tablet under the 
tongue and allow it to dissolve. If after 5 minutes you are 
still having chest pain, you can repeat this every 5 minutes for 
UP TO 3 doses. If chest pain persists after 3 doses, call ___. 
You should always lie down if you need to take this medication, 
because it can cause a drop in your blood pressure which can 
lead to lightheadedness or possibly cause someone to pass out if 
blood pressure drops too low. Even if your chest pain resolves, 
you should contact your cardiologist to inform them of your 
symptoms. 

 Please take Atorvastatin 80mg, daily (best absorbed when taken 
in the evening), this medication not only reduces cholesterol, 
but has been shown to help decrease risk of heart attack in the 
future for people who have coronary artery (heart) disease.

 It was a pleasure participating in your care. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

 -Your ___ Care Team  
 
Followup Instructions:
___